US09388189B2
(S)-2-(1-((5-(1H-Pyrrolo[2,3-b]pyridin-5-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(1H-Pyrrolo[2,3-b]pyridin-5-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (51 mg, 0.08 mmol) was treated with trifluoroacetic acid (2 ml, 25 mmol) and a solution of ammonia (7N in methanol, 2 ml, 14 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (0% to 50% dichloromethane-2-propanol) to obtain 18 mg (44% yield) of the title compound. Purity 100%.

reactant | (S)-2-(1-((5-(1H-Pyrrolo[2,3-b]pyridin-5-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.08 mmol, 51 mg | N1C=CC=2C1=NC=C(C2)C2=CN(C=1N=CN=C(C12)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)COCC[Si](C)(C)C | C34H37N9O2Si
reactant | trifluoroacetic acid | 25 mmol, 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 14 mmol, 7N, 2 ml | N | H3N
product | (S)-2-(1-((5-(1H-Pyrrolo[2,3-b]pyridin-5-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 18 mg, 44% yield | N1C=CC=2C1=NC=C(C2)C2=CNC=1N=CN=C(C12)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C28H23N9O
